data/rgd1/barriers/filtered.csv
rxn,smiles,ea
MR_515404_1,[C:1]([C:2]([C:3]12[C:4]([H:11])([C:6]1(/[C:5](=[N:8]/[H:10])[H:12])[H:13])[C:7]2([H:17])[H:18])=[O:9])([H:14])([H:15])[H:16]>>[C:1]([C:2]([C:3](/[C:4](=[C:6]([C:5](=[N:8]\[H:10])\[H:12])/[H:13])[H:11])=[C:7]([H:17])[H:18])=[O:9])([H:14])([H:15])[H:16],47.5582249999897
MR_319177_0,[C:1](/[N:8]=[C:5](\[N:2](/[C:3]([N:4]([H:11])[H:12])=[N:7]/[O:6][H:9])[H:10])[H:13])([H:14])([H:15])[H:16]>>[C:1](/[N:8]=[C:5](\[N:7](/[C:3](=[N:2]/[H:10])[N:4]([H:11])[H:12])[O:6][H:9])[H:13])([H:14])([H:15])[H:16],49.295772499990136
MR_332140_1,[C:1]([C:5]([C:2]([H:20])([H:21])[H:22])=[C:3]([N:6]([H:10])[H:11])[C:9](=[C:4]([N:7]([H:12])[H:13])[N:8]([H:14])[H:15])[H:16])([H:17])([H:18])[H:19]>>[C:1]([C:5]1([C:2]([H:20])([H:21])[H:22])[C:3]([N:6]([H:10])[H:11])=[C:9]([H:16])[C:4]1([N:7]([H:12])[H:13])[N:8]([H:14])[H:15])([H:17])([H:18])[H:19],41.12760499999595
MR_391567_1,[C:1]1([C:2]([H:16])([H:17])[H:18])([N:6]([H:12])[H:13])[N:3]([H:10])[C:5](=[O:9])[C:7]1(/[C:8](=[N:4]/[H:11])[H:15])[H:14]>>[C:1]1([C:2]([H:16])([H:17])[H:18])([N:6]([H:12])[H:13])[N:3]([H:10])[C:5](=[O:9])[N:4]([H:11])[C:8]([H:15])=[C:7]1[H:14],47.33358000002184
MR_650600_1,[C:1](/[C:4]([O:6][H:10])=[N:7]/[C:3]([C:5]([C:2]([H:15])([H:16])[H:17])=[O:9])=[N:8]\[H:11])([H:12])([H:13])[H:14]>>[C:1]([C:4](=[O:6])[N:7]1/[C:3](=[N:8]\[H:11])[C:5]1([C:2]([H:15])([H:16])[H:17])[O:9][H:10])([H:12])([H:13])[H:14],29.52701249996452
MR_107998_2,[C:1]([C:2]([O:6][H:8])([H:12])[H:13])([C:4]([C:3]([H:14])([H:15])[H:16])=[O:7])([N:5]([H:10])[H:11])[H:9]>>[C:1]([C:2](=[O:6])[H:12])([C:4]([C:3]([H:14])([H:15])[H:16])([O:7][H:8])[H:13])([N:5]([H:10])[H:11])[H:9],58.393267499956494
MR_274290_0,[C:1]([C:3](=[C:4]([H:14])[H:15])[O:5]/[C:2]([O:7][H:10])=[N:8]/[O:6][H:9])([H:11])([H:12])[H:13]>>[C:1]([C:3](=[C:4]([H:14])[H:15])[N:8]([C:2](=[O:5])[O:7][H:10])[O:6][H:9])([H:11])([H:12])[H:13],41.81911000003353
MR_595455_0,[N:1](/[C:2]([N:3]([H:10])[H:11])=[N:6]/[O:5][H:8])([O:4][H:7])[H:9]>>[N:1]1([H:9])[C:2]([N:3]([H:10])[H:11])([O:4][H:7])[N:6]1[O:5][H:8],55.37310999994844
MR_371908_0,[C:1]([C:4]([C:2]([C:3]([O:5][H:9])=[O:7])([H:13])[H:14])=[O:8])([O:6][H:10])([H:11])[H:12]>>[C:1]([C:4](=[C:2]([H:13])[H:14])[O:8][C:3]([O:5][H:9])=[O:7])([O:6][H:10])([H:11])[H:12],69.02186249998081
MR_405546_2,[C:1]([C:2]1([C:5](=[C:6]([H:15])[H:16])[H:14])/[C:3](=[N:8]\[H:13])[N:7]1[H:12])([N:4]([H:10])[H:11])=[O:9]>>[C:1]([C:2](/[C:3]([C:5](=[C:6]([H:15])[H:16])[H:14])=[N:8]\[H:13])=[N:7]\[H:12])([N:4]([H:10])[H:11])=[O:9],62.55798499999969
MR_24950_1,[C:1]([C:3]([C:5]([C:2]([O:7][H:10])([H:11])[H:12])([O:8][H:9])[H:15])([H:13])[H:14])([C:4]([H:16])([H:17])[H:18])=[O:6]>>[C:1]([C:2]([O:7][H:10])([H:11])[H:12])([C:3]([C:5](=[O:8])[H:15])([H:13])[H:14])([C:4]([H:16])([H:17])[H:18])[O:6][H:9],71.44589499999583
MR_661255_1,[C:1](/[N:8]=[C:3](/[N:2]([N:4]([H:9])[H:10])[C:6](=[C:7]([H:17])[H:18])[H:13])[N:5]([H:11])[H:12])([H:14])([H:15])[H:16]>>[C:1]([N:8](/[C:3](=[N:2]/[N:4]([H:9])[H:10])[N:5]([H:11])[H:12])[C:6](=[C:7]([H:17])[H:18])[H:13])([H:14])([H:15])[H:16],54.1927825000036
MR_463772_1,[C:1](\[C:3]([C:2]([C:4]([H:16])([H:17])[H:18])([H:11])[H:19])([H:14])[H:15])(=[C:7](\[C:8](=[C:5]([H:20])[H:24])[C:6]([H:21])([H:22])[H:23])[N:9]([H:12])[H:13])[H:10]>>[C:1]1([C:7](=[C:8]([C:5]([H:19])([H:20])[H:24])[C:6]([H:21])([H:22])[H:23])[N:9]([H:12])[H:13])([H:10])[C:2]([C:4]([H:16])([H:17])[H:18])([H:11])[C:3]1([H:14])[H:15],65.9251499999877
MR_114850_1,[C:1]([N:3]([N:2](/[C:4]([C:5](=[C:6]([H:15])[H:16])[H:11])=[N:7]/[H:10])[H:8])[H:9])([H:12])([H:13])[H:14]>>[C:1]([N:3](/[C:4]([N:2]([C:5](=[C:6]([H:15])[H:16])[H:11])[H:8])=[N:7]/[H:10])[H:9])([H:12])([H:13])[H:14],51.23223750002339
MR_232874_2,[C:1]([C:2]([H:12])([H:13])[H:14])(/[C:5]([C:4]([H:18])([H:19])[H:20])=[N:8]/[C:3]([H:15])([H:16])[H:17])([N:6]([H:10])[H:11])[O:7][H:9]>>[C:1]1([C:2]([H:12])([H:13])[H:14])([N:6]([H:10])[H:11])[C:5]([C:4]([H:18])([H:19])[H:20])([O:7][H:9])[N:8]1[C:3]([H:15])([H:16])[H:17],46.724277499990734
MR_389480_1,[C:1](/[C:2]([N:3]([H:9])[H:10])=[C:5](\[N:4]([H:11])[H:12])[H:15])([O:6][O:7][H:8])([H:13])[H:14]>>[C:1](=[C:2]([N:3]([H:9])[H:10])[C@@:5]([N:4]([H:11])[H:12])([O:6][O:7][H:8])[H:15])([H:13])[H:14],42.58089500000068
MR_422268_1,[C:1]([N:4]([C:2]([H:16])([H:17])[H:18])[N:6]([H:12])[H:13])([O:8][H:10])(/[N:9]=[C:5](/[C:3]([H:19])([H:20])[H:21])[N:7]([H:14])[H:15])[H:11]>>[C:1](\[O:8][H:10])(=[N:9]/[C:5]([C:3]([H:19])([H:20])[H:21])([N:4]([C:2]([H:16])([H:17])[H:18])[N:6]([H:12])[H:13])[N:7]([H:14])[H:15])[H:11],52.35358000001014
MR_559936_1,[C:1]([O:7][N:3]([O:6]/[C:4](=[C:5](/[C:2]([H:15])([H:16])[H:17])[H:11])[O:8][H:9])[H:10])([H:12])([H:13])[H:14]>>[C:1]([O:7][C@@:5]([C:2]([H:15])([H:16])[H:17])([C@:4]1([O:8][H:9])[N:3]([H:10])[O:6]1)[H:11])([H:12])([H:13])[H:14],68.90075500000123
MR_101025_1,[C:1]([C:3]12[C:2]([O:8][H:11])([C:4]([H:12])=[C:5]1[H:13])[O:6]2)([O:7][H:10])=[O:9]>>[C:1]([c:3]1[c:5]([H:13])[c:4]([H:12])[c:2]([O:8][H:11])[o:6]1)([O:7][H:10])=[O:9],12.38371249998039
